US06528538B1
(5-Hydroxymethyl-5H-dibenzo[a,d]cyclohepten-5-yl)methanol
A mixture of 11 g (0.05 mol) of 5H-dibenzo[a,d]cycloheptene-5-carboxaldehyde (prepared according to L. SALISBURY, J. Org. Chem., 1972, 37, 4075), 66 ml of ethanol, 16.2 ml (0.2 mol) of aqueous 37% formaldehyde solution, 11 ml of water and 6.6 g (0.05 mol) of K2CO3 is refluxed for 20 hours. The reaction medium is then poured into 1 liter of water with stirring and the mixture is extracted with CH2Cl2. The combined organic phases are dried over Na2SO4 and evaporated. The residual mass is triturated from 60 ml of absolute ethanol and disperses as a beige-coloured solid, which is filtered off and dried. 5 g of product are obtained (yield: 40%).

reactant | 5H-dibenzo[a,d]cycloheptene-5-carboxaldehyde | 0.05 mol, 11 g | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C=O | C16H12O
reactant | ethanol | 66 ml | C(C)O | C2H6O
reactant | formaldehyde | C=O | CH2O
reactant | K2CO3 | 0.05 mol, 6.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 1 liter | O | H2O
solvent | water | 11 ml | O | H2O
product | (5-Hydroxymethyl-5H-dibenzo[a,d]cyclohepten-5-yl)methanol | 5 g, yield: 40% | OCC1(C2=C(C=CC3=C1C=CC=C3)C=CC=C2)CO | C17H16O2
